US05389643
Methyl 4-amino-5-chloro-2-{(3-pentyn-2-yl)oxy}benzoate
To the suspension of methyl 4-acetoamido-5-chloro-2-{(3-pentyn-2-yl)oxy}benzoate (78.3 g) in methanol (700 ml), concentrated sulfuric acid (78 ml) was dropwisely added at 0° C. The temperature of the reaction mixture was raised to room temperature. After the reaction mixture was stirred over night at room temperature, the reaction mixture was poured into a saturated aqueous sodium hydrogencarbonate solution (5 l) gradually. Crystal thus precipitated was recovered by filtration, washed with water and dried to obtain 66.5 g of the title compound as colorless crystal.

reactant | methyl 4-acetoamido-5-chloro-2-{(3-pentyn-2-yl)oxy}benzoate | 78.3 g | C(C)(=O)NC1=CC(=C(C(=O)OC)C=C1Cl)OC(C)C#CC | C15H16ClNO4
reactant | sodium hydrogencarbonate | 5 l | C(O)([O-])=O.[Na+]
solvent | methanol | 700 ml | CO | CH4O
solvent | sulfuric acid | 78 ml | S(O)(O)(=O)=O | H2O4S
product | Methyl 4-amino-5-chloro-2-{(3-pentyn-2-yl)oxy}benzoate | 66.5 g | NC1=CC(=C(C(=O)OC)C=C1Cl)OC(C)C#CC | C13H14ClNO3
